US07300931B2
Synthesis of 2-phenylpyridine-5-acetic acid:
2-chloropyridine-5-acetic acid (0.2 gm, 1.21 mmole), phenylboronic acid (0.16 gm, 1.3 mmole) and 50% water wet 10% Palladium carbon (0.08 gm, 0.036 mmole Pd) were added to 10 ml of 5:1 water isopropanol mixture, then Na2CO3 (0.15 gm, 1.4 mmole) dissolved in 3 ml of water was added to the above mixture, the reaction was heated at 65-70° C. overnight, the reaction was cooled to room temperature, diluted with 20 ml of 70:15:1 i-PrOH/H2O/10% NaOH, filtered, the catalyst was washed with 20 ml×3 using the above mixture, the filtrate was dried under vacuum and crude mixture was used without any purification in the next step.

reactant | 2-chloropyridine-5-acetic acid | 1.21 mmole, 0.2 gm | ClC1=NC=C(C=C1)CC(=O)O | C7H6ClNO2
reactant | phenylboronic acid | 1.3 mmole, 0.16 gm | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 1.4 mmole, 0.15 gm | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 3 ml | O | H2O
solvent | i-PrOH H2O | 20 ml | CC(C)O.O
solvent | NaOH | [OH-].[Na+]
solvent | water isopropanol | 10 ml | C(C)(C)O.O
solvent | water | 0.036 mmole, 0.08 gm | O | H2O
product | 2-phenylpyridine-5-acetic acid | C1(=CC=CC=C1)C1=NC=C(C=C1)CC(=O)O | C13H11NO2
